US06573289B1
Production of 1-(1H-Imidazol-4-yl)-2-methyl-1-(6-propylnaphthalen-2-yl)-1-propanol
1-(6-Bromonaphthalen-2-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol (2.0 g), allyltributyltin (1.26 ml), tris(dibenzylideneacetone)dipalladium (92 mg), tri(2-furyl)phosphine (79 mg) and lithium chloride (432 mg) were dissolved in DMF (20 ml). The solution was stirred at 80° C. for 9 h. The solution was cooled, and diluted with water. The mixture was extracted with ethyl acetate, washed with water and saturated sodium chloride solution, successively, and dried. The solvent was distilled off and the residue was purified by silica gel chromatography (eluent, hexane:THF=6:1) followed by crystallization from isopropyl ether-hexane to give the titled compound (1.57 g) as colorless needles.

reactant | 1-(6-Bromonaphthalen-2-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 2.0 g | BrC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H31BrN2O
reactant | allyltributyltin | 1.26 ml | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | lithium chloride | 432 mg | [Cl-].[Li+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 92 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tri(2-furyl)phosphine | 79 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
product | 1-(1H-Imidazol-4-yl)-2-methyl-1-(6-propylnaphthalen-2-yl)-1-propanol | 1.57 g | N1C=NC(=C1)C(C(C)C)(O)C1=CC2=CC=C(C=C2C=C1)CCC | C20H24N2O
